US20010053386A1
(R)-2-(Methoxycarbonylamino)-3-phenylpropanoic acid (II)
A mixture of D-phenylalanine (I, 25.00 g, 0.151 mol) and sodium hydroxide (6.05 g, 0.151 mol) in water (170 ml) and tetrahydrofuran (225 ml) is cooled to −15°, and a mixture of methyl chloroformate (18.6 g, 0.197 mol) in tetrahydrofuran (50 ml) is added dropwise. When the one-half of the methyl chloroformate had been added, a mixture of sodium hydroxide (9.10 g, 0.227 mol) in water (20 ml) is added. When the addition is complete, the mixture is stirred at 25° for an additional 2 hours and acidified with hydrochloric acid (10%) to pH 2. The mixture is extracted twice with ether and the extracts are washed with saline and dried over magnesium sulfate. The solvent is removed under reduced pressure to give the title compound, NMR (CDCl3) 3.09, 3.19, 3.65, 4.66, 5.25, 7.15-7.31 and 8.22 67 ; IR (thin film) 1726, 1498, 1455, 1448 and 1377 cm−1; MS calculated for C11H13NO4=224.0923, found=224.0921.

reactant | D-phenylalanine | 0.151 mol, 25.00 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | sodium hydroxide | 0.151 mol, 6.05 g | [OH-].[Na+]
reactant | methyl chloroformate | 0.197 mol, 18.6 g | ClC(=O)OC | C2H3ClO2
reactant | sodium hydroxide | 0.227 mol, 9.10 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 170 ml | O | H2O
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | (R)-2-(Methoxycarbonylamino)-3-phenylpropanoic acid | COC(=O)N[C@@H](C(=O)O)CC1=CC=CC=C1 | C11H13NO4
